* NGSPICE file created from CP_v1.ext - technology: gf180mcuD

.subckt CP_v1 VDD VSS VGP VGN DOWN CP_OUT UP
X0 CP_OUT UPB PMID VDD pfet_03v3 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=0.3u
X1 UPB UP VSS VSS nfet_03v3 ad=0.44p pd=2.88u as=0.44p ps=2.88u w=1u l=0.3u
X2 PMID UPB CP_OUT VDD pfet_03v3 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=0.3u
X3 VGN VGN VSS VSS nfet_03v3 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=2u
X4 VSS VGN NMID VSS nfet_03v3 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=2u
X5 NMID VGN VSS VSS nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X6 VDD VGP PMID VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X7 CP_OUT DOWN NMID VSS nfet_03v3 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=0.3u
X8 UPB UP VDD VDD pfet_03v3 ad=0.88p pd=4.88u as=0.88p ps=4.88u w=2u l=0.3u
X9 CP_OUT UPB PMID VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.3u
X10 VGP VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X11 VDD VGP PMID VDD pfet_03v3 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=2u
X12 VDD VGP VGP VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X13 PMID VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X14 CP_OUT UPB PMID VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.3u
X15 CP_OUT UPB PMID VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.3u
X16 VGP VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X17 NMID DOWN CP_OUT VSS nfet_03v3 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=0.3u
X18 PMID VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X19 VDD VGP VGP VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X20 VDD VGP PMID VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X21 PMID VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X22 VDD VGP VGP VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X23 PMID UPB CP_OUT VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.3u
X24 VGP VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X25 PMID VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X26 VGP VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=2u
X27 VDD VGP PMID VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X28 PMID UPB CP_OUT VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.3u
X29 PMID VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X30 VSS VGN VGN VSS nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X31 VGP VGP VDD VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X32 PMID UPB CP_OUT VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.3u
X33 VDD VGP PMID VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X34 CP_OUT UPB PMID VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.3u
X35 VDD VGP VGP VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X36 PMID UPB CP_OUT VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.3u
X37 VDD VGP VGP VDD pfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
.ends

