* NGSPICE file created from DIV2_QUAD_v1.ext - technology: gf180mcuD

.subckt ib_conv_v1 IBIAS INP INM OUT VDD VSS
X0 a_938_3424# INP a_100_n800# VSS nfet_03v3 ad=3.52p pd=16.88u as=3.52p ps=16.88u w=8u l=0.3u
X1 a_938_3424# a_938_3424# VDD VDD pfet_03v3 ad=3.52p pd=16.88u as=3.52p ps=16.88u w=8u l=0.3u
X2 a_8030_n1600# a_6430_n1100# VDD VDD pfet_03v3 ad=19.36p pd=88.88u as=19.36p ps=88.88u w=44u l=0.3u
X3 a_8030_n1600# a_6430_n1100# VSS VSS nfet_03v3 ad=7.04p pd=32.88u as=7.04p ps=32.88u w=16u l=0.3u
X4 a_6430_n1100# a_2156_7176# VDD VDD pfet_03v3 ad=11.44p pd=52.88u as=11.44p ps=52.88u w=26u l=0.3u
X5 a_2430_n800# INM a_100_n800# VSS nfet_03v3 ad=3.52p pd=16.88u as=3.52p ps=16.88u w=8u l=0.3u
X6 a_6430_n1100# a_2156_7176# VSS VSS nfet_03v3 ad=4.84p pd=22.88u as=4.84p ps=22.88u w=11u l=0.3u
X7 OUT a_8030_n1600# VSS ppolyf_u_1k r_width=2u r_length=2u
X8 a_2156_7176# a_1676_7176# VSS VSS nfet_03v3 ad=1.76p pd=8.88u as=1.76p ps=8.88u w=4u l=0.3u
X9 a_100_n800# IBIAS VSS VSS nfet_03v3 ad=3.52p pd=16.88u as=3.52p ps=16.88u w=8u l=1u
X10 a_2156_7176# a_1676_7176# VDD VDD pfet_03v3 ad=4.4p pd=20.88u as=4.4p ps=20.88u w=10u l=0.3u
X11 a_2430_n800# a_938_3424# VDD VDD pfet_03v3 ad=3.52p pd=16.88u as=3.52p ps=16.88u w=8u l=0.3u
X12 a_2430_n800# a_1676_7176# cap_mim_2f0_m4m5_noshield c_width=5u c_length=10u
X13 a_2156_7176# a_1676_7176# VSS ppolyf_u_1k r_width=2u r_length=40.04u
.ends

.subckt DIV2_QUAD_v1 CK CKB IBIAS VDD VSS I_P I_N Q_P Q_N
Xib_conv_v1_0 IBIAS OIB OI I_P VDD VSS ib_conv_v1
Xib_conv_v1_1 IBIAS OI OIB I_N VDD VSS ib_conv_v1
Xib_conv_v1_2 IBIAS OQ OQB Q_N VDD VSS ib_conv_v1
Xib_conv_v1_3 IBIAS OQB OQ Q_P VDD VSS ib_conv_v1
X0 OQ OQB a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X1 OQ OI a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X2 VDD OQB VSS ppolyf_u_1k r_width=10u r_length=3u
X3 a_4344_n400# OI OIB VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X4 OI OQB a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X5 a_4344_n400# CKB a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X6 OI OIB a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X7 OQB OQ a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X8 a_4344_n400# CKB a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X9 a_n708_n400# OQ OIB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X10 a_n708_n7400# OIB OQB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X11 a_n856_n7400# CK a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X12 a_n856_n7400# CKB a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X13 a_n856_n7400# CKB a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X14 a_n856_n400# CKB a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X15 OIB OQ a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X16 a_n856_n400# CK a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X17 a_4344_n400# OIB OI VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X18 VSS IBIAS a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X19 OI OIB a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X20 a_n856_n7400# CK a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X21 OQB OIB a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X22 VSS IBIAS a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X23 a_4344_n7400# OQ OQB VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X24 a_n856_n7400# CK a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X25 a_4344_n7400# CK a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X26 a_n856_n7400# CKB a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X27 a_n856_n400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X28 a_n708_n400# OQ OIB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X29 OI OIB a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X30 a_n708_n400# CK a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X31 a_4344_n7400# OQB OQ VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X32 a_n708_n400# OQ OIB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X33 VSS IBIAS a_n856_n400# VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=1u
X34 OI OQB a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X35 a_n856_n400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X36 a_n856_n400# CKB a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X37 a_n708_n400# OQB OI VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X38 a_4344_n400# OIB OI VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X39 a_4344_n7400# OQB OQ VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X40 OQ OQB a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X41 OIB OQ a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X42 a_4344_n7400# OQB OQ VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X43 a_n708_n7400# OI OQ VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X44 OQB OQ a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X45 OI OQB a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X46 a_n856_n400# CK a_n708_n400# VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X47 OIB OI a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X48 a_n856_n7400# CKB a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X49 a_n708_n7400# CKB a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X50 a_n856_n400# CKB a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X51 a_4344_n400# OIB OI VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X52 a_4344_n7400# CK a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X53 a_n856_n7400# CK a_4344_n7400# VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X54 a_n708_n7400# CKB a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X55 a_4344_n7400# OQ OQB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X56 a_n856_n7400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X57 OQB OIB a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X58 OQ OI a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X59 a_n856_n400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=1u
X60 a_4344_n400# CKB a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X61 OQ OQB a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X62 VSS IBIAS a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X63 VSS IBIAS a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X64 OIB OI a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X65 a_4344_n7400# OQB OQ VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X66 OQ OI a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X67 a_n708_n7400# OIB OQB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X68 a_n856_n400# CKB a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X69 IBIAS IBIAS VSS VSS nfet_03v3 ad=1.76p pd=8.88u as=1.76p ps=8.88u w=4u l=1u
X70 OIB OQ a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X71 a_4344_n7400# CK a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X72 a_n708_n400# OQB OI VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X73 a_n856_n7400# CKB a_n708_n7400# VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X74 a_4344_n400# OI OIB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X75 a_4344_n400# CKB a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X76 OI OIB a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X77 OQB OQ a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X78 a_n856_n7400# CK a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X79 OQ OQB a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X80 a_n856_n400# CKB a_4344_n400# VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X81 a_4344_n400# OIB OI VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X82 a_n708_n400# OQB OI VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X83 VSS IBIAS a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X84 a_n708_n400# CK a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X85 VSS IBIAS a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X86 a_4344_n400# OI OIB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X87 a_n708_n7400# OI OQ VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X88 a_n708_n7400# OIB OQB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X89 a_n708_n400# OQ OIB VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X90 OI OIB a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X91 VDD OIB VSS ppolyf_u_1k r_width=10u r_length=3u
X92 a_n708_n7400# OIB OQB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X93 OQB OIB a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X94 a_n856_n7400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X95 a_n856_n400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X96 a_n708_n7400# OI OQ VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X97 OI OQB a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X98 a_n708_n400# CK a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X99 OQB OQ a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X100 VDD OQ VSS ppolyf_u_1k r_width=10u r_length=3u
X101 a_4344_n400# OIB OI VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X102 VDD OI VSS ppolyf_u_1k r_width=10u r_length=3u
X103 a_n856_n400# CK a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X104 OQB OIB a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X105 a_n708_n7400# OIB OQB VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X106 OIB OQ a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X107 a_n708_n400# OQB OI VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X108 a_n856_n400# CK a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X109 a_n708_n400# CK a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X110 a_4344_n7400# CK a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X111 a_n708_n7400# CKB a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X112 a_4344_n400# OI OIB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X113 a_4344_n7400# OQB OQ VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X114 a_n856_n7400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=1u
X115 a_n708_n400# CK a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X116 OIB OI a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X117 OIB OI a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X118 OQ OQB a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X119 a_n856_n400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X120 a_n708_n7400# OI OQ VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X121 OQ OI a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X122 a_n856_n7400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X123 OQB OIB a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X124 a_4344_n7400# OQ OQB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X125 a_4344_n7400# CK a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X126 a_4344_n400# OI OIB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X127 VSS IBIAS a_n856_n7400# VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=1u
X128 a_4344_n400# CKB a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X129 OI OQB a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X130 a_n708_n7400# CKB a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X131 a_n856_n7400# IBIAS VSS VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X132 OQ OI a_n708_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X133 a_n708_n7400# CKB a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X134 VSS IBIAS a_n856_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X135 a_n708_n7400# OI OQ VSS nfet_03v3 ad=1.76p pd=8.88u as=1.04p ps=4.52u w=4u l=0.3u
X136 a_n856_n400# CK a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X137 a_n708_n400# OQ OIB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X138 a_4344_n7400# OQ OQB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X139 VSS IBIAS a_n856_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=1u
X140 a_n708_n400# OQB OI VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X141 OQB OQ a_4344_n7400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X142 OIB OI a_4344_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.76p ps=8.88u w=4u l=0.3u
X143 a_4344_n7400# OQ OQB VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
X144 OIB OQ a_n708_n400# VSS nfet_03v3 ad=1.04p pd=4.52u as=1.04p ps=4.52u w=4u l=0.3u
.ends

